US04772600
2-Phenyl-3H-imidazo[4,5-b]pyridine-3-acetic acid ethyl ester
N-[3-(benzoylamino)-2-pyridinyl]glycine ethyl ester, 10.32 g (0.034 mole) in two divided portions was heated in glass in a Wood's metal bath at 190° C. under a flow of nitrogen, one portion for 15 min and the other for 7 min. The green glassy residues were dissolved in methylene chloride, combined, and stirred together with 90 g of Florisil® for 1 hr. The mixture was filtered, and the filtrate evaporated to an oil, which crystallized. The solid was recrystallized from hexanes to give a crystalline solid, which was dried under high vacuum at room temperature overnight to give 3.67 g (38%) of crystals, m.p. 93°-95° C.

reactant | N-[3-(benzoylamino)-2-pyridinyl]glycine ethyl ester | C(C)OC(CNC1=NC=CC=C1NC(C1=CC=CC=C1)=O)=O | C16H17N3O3
reactant | Florisil | 90 g | [O-][Si](=O)[O-].[Mg+2]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-Phenyl-3H-imidazo[4,5-b]pyridine-3-acetic acid ethyl ester | 3.67 g, 38% | C(C)OC(CN1C(=NC=2C1=NC=CC2)C2=CC=CC=C2)=O | C16H15N3O2
